US04927838
As in Example 112, 1-butyl-5-methoxy-2-naphthalenecarboxylic acid ethyl ester (3.45 g) in methanol (40 mL) was saponified with 2N sodium hydroxide solution (10 mL) at reflux for 1.75 hours. 3.1 g of crude acid, mp 151°-153° C., was obtained from the usual work up and crystallization of a sample from diethyl ether-hexane gave 1-butyl-5-methoxy-2-naphthalenecarboxylic acid, mp 154°-155° C. Anal. Calcd for C16H18O3 : C, 74.39; H, 7.02 Found: C, 74.05; H, 7.05

reactant | 1-butyl-5-methoxy-2-naphthalenecarboxylic acid ethyl ester | 3.45 g | C(C)OC(=O)C1=C(C2=CC=CC(=C2C=C1)OC)CCCC | C18H22O3
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 1-butyl-5-methoxy-2-naphthalenecarboxylic acid | C(CCC)C1=C(C=CC2=C(C=CC=C12)OC)C(=O)O | C16H18O3
